US06495125B2
To a stirred suspension of 3-benzotriazol-2-yl-5-sec-butyl-4-hydroxybenzenesulfonyl chloride (14.19 g, 0.0388 mol) and 2-bromoethylamine hydrobromide (8.44 g, 0.0412 mol) in acetonitrile (100 g) at 0-5° C. under nitrogen was added dropwise a solution of triethylamine (8.05 g, 0.0796 mol) in acetonitrile (60 g). When the addition was complete, the reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was suction filtered and the filter cake was washed with acetonitrile (20 g). The filtrate was spin-evaporated and the residue was suspended in water (130 g). The suspension was suction filtered and the filter cake was dried to give 10 g of 3-benzotriazol-2-yl-N-(2-bromoethyl)-5-sec-butyl-4-hydroxy-benzenesulfonamide as a white powder.

reactant | 3-benzotriazol-2-yl-5-sec-butyl-4-hydroxybenzenesulfonyl chloride | 0.0388 mol, 14.19 g | N=1N(N=C2C1C=CC=C2)C=2C=C(C=C(C2O)C(C)CC)S(=O)(=O)Cl | C16H16ClN3O3S
reactant | 2-bromoethylamine hydrobromide | 0.0412 mol, 8.44 g | Br.BrCCN
reactant | triethylamine | 0.0796 mol, 8.05 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 g | C(C)#N | C2H3N
solvent | acetonitrile | 60 g | C(C)#N | C2H3N
product | 3-benzotriazol-2-yl-N-(2-bromoethyl)-5-sec-butyl-4-hydroxy-benzenesulfonamide | 10 g | N=1N(N=C2C1C=CC=C2)C=2C=C(C=C(C2O)C(C)CC)S(=O)(=O)NCCBr | C18H21BrN4O3S
